US05998433
c) Synthesis of (Z)-6-(4-chlorostilbene-4'-carbonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride
(Z)-6-(4-Chlorostilbene-4'-carbonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine 0.768 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | (Z)-6-(4-Chlorostilbene-4'-carbonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.768 g | ClC1=CC=C(C=C1)\C=C/C1=CC=C(C=C1)C(=O)N1CC2=C(CC1)C=C(O2)CN2CCCC2 | C27H27ClN2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | (Z)-6-(4-chlorostilbene-4'-carbonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | Cl.ClC1=CC=C(C=C1)\C=C/C1=CC=C(C=C1)C(=O)N1CC2=C(CC1)C=C(O2)CN2CCCC2 | InChI=1S/C27H27ClN2O2.ClH/c28-24-11-7-21(8-12-24)4-3-20-5-9-22(10-6-20)27(31)30-16-13-23-17-25(32-26(23)19-30)18-29-14-1-2-15-29;/h3-12,17H,1-2,13-16,18-19H2;1H/b4-3-;
